*$
***********************************************************************
*  (C) Copyright 2014 Texas Instruments Incorporated. All rights reserved.
***********************************************************************
***********************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of
** merchantability or fitness for a particular purpose. The model is
** provided solely on an "as is" basis. The entire risk as to its quality
** and performance is with the customer
********************************************************************************
*
* Released by: WEBENCH(R) Design Center, Texas Instruments Inc.
* Part: CSD25304W1015
* Date: 08/01/2014
* Model Type: TRANSIENT
* Simulator: PSPICE
* Simulator Version: 16.2
* EVM Order Number: 
* EVM Users Guide: 
* Datasheet: SLPS510 - JULY 2014
* Model Version: Final 1.00
*
*****************************************************************************
*
* Updates:
*
* Final 1.00
* Release to Web
*
*****************************************************************************
*
* Model Usage Notes:
*
*****************************************************************************
**********************************************************************
*                                                                    *
*  CSD25304W1015  -  P-Channel 08/06 CSP 1.0x1.5 mm^2                *
*                                                                    *
**********************************************************************
.SUBCKT CSD25304W1015  1 2 3

.param width {0.928/1.53}
.param length 0.4u
.param ptrc1 {-1.00e-2*1}
.param ptrc2 {5.00e-5*1}

R_drain_ball	1	n1	0.05e-3
R_drain_metal	n1	n2	0.01e-3
RG		2	n3	9.6
MP1		n2	n3	n4	n4	RITSUBP7 l={length} w={width} ps={2.1*width} pd={2.1*width}
R_substrate	n4	n5	RTEMP	3.5e-3
R_source	n5	n6	0.01e-3
R_source_ball	n6	3	0.01e-3

DB	1	3	DBD

DGD  n2 n7	  DD
DDG  n3 n7	  DD

.MODEL RITSUBP7 PMOS (LEVEL=7 VERSION=3.2 CAPMOD=2 MOBMOD=1
+	TOX=1.0E-8	XJ=2.26E-7	NCH=2.30E17	KT1=-0.65	VOFF=-0.14
+	NSUB=3.16E16	XT=8.66E-8 NSS=3E11	ua=1e-8	ub=7.00E-18
+	PCLM=5	VTH0=-1.0	U0= 200.00	WINT=2.0E-7	LINT=2.26E-8	NGATE=5E20
+	RSH=0	JS=3.51E-18 JSW=3.51E-18 CJ=5.28E-18 MJ=0.5 PB=0.94
+	CJSW=1.19E-18	MJSW=0.5	PBSW=0.94
+	CGSO=4.5E-18	CGDO=1.0E-18	CGBO=5.75E-18)

.MODEL RTEMP RES (TC1={ptrc1} TC2={ptrc2})

.MODEL DBD D (
+ CJO=450E-12	VJ=0.9	M=0.20	FC=0.5	TT=3e-9
+ TNOM=27		RS=15.00e-3 	TRS1=1e-3 	IS=6.00e-12 N=1.05
+ XTI=1.00 		BV=21)

.MODEL DD D (
+ CJO=5e-18	VJ=0.9	M=0.9	FC=0.5	TT=1e-9
+ TNOM=27		IS=1.00e-12 N=1.0  RS = 0.1 )

.ENDS CSD25304W1015  
*$